US08404679B2
3-Cyano-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-fluoro-N-methyl-benzamide
In analogy to the procedure described for the synthesis of example 97, the title compound 3-cyano-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-fluoro-N-methyl-benzamide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 3-cyano-4-fluorobenzoic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown oil. MS m/e: 585.2 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | 3-cyano-4-fluorobenzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1F | C8H4FNO2
product | 3-cyano-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-fluoro-N-methyl-benzamide | C(#N)C=1C=C(C(=O)N(C)C2CN(CC2C2=CC(=C(C=C2)Cl)Cl)C(=O)C2CCN(CC2)C(=O)C2(CC2)C)C=CC1F | C30H31Cl2FN4O3
